US04960766
To a solution of tert-butyl 2-difluoromethoxyimino-3-oxobutyrate (9.4 g) in acetic acid (9.4 ml) was added sulfuryl chloride (2.55 ml) under ice-cooling. After stirred at ambient temperature for an hour, the reaction mixture was concentrated under reduced pressure. The residual oil was dissolved in ethyl acetate. The ethyl acetate solution was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue was crystallized with diisopropyl ether to give (Z)-2-difluoromethoxyimino-3-oxobutyric acid (4.73 g).

reactant | tert-butyl 2-difluoromethoxyimino-3-oxobutyrate | 9.4 g | FC(ON=C(C(=O)OC(C)(C)C)C(C)=O)F | C9H13F2NO4
reactant | sulfuryl chloride | 2.55 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 9.4 ml | C(C)(=O)O | C2H4O2
product | (Z)-2-difluoromethoxyimino-3-oxobutyric acid | 4.73 g | FC(O\N=C(/C(=O)O)\C(C)=O)F | C5H5F2NO4
